US04572912
5-[4-(6-Hydroxy-2-isobutyl-5,7,8-trimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
1.99 g of ethyl 3-[4-(6-acetoxy-2-isobutyl-5,7,8-trimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate, 0.42 g of thiourea and 2.1 g of sulfolane were reacted under a nitrogen stream at 125°-150° C. for 3.5 hours. At the end of this time, 15 ml of ethylene glycol monomethyl ether, 4 ml of water and 2 ml of concentrated hydrochloric acid were added and the mixture was reacted for a further 3.5 hours at 96°-98° C. The reaction mixture was then treated as described in Example 1(a) and the resulting crude product, in the form of an oil, was purified by column chromatography through silica gel, eluted with a 5:1 by volume mixture of hexane and ethyl acetate, to give the title compound.

reactant | ethyl 3-[4-(6-acetoxy-2-isobutyl-5,7,8-trimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 1.99 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(CC(C)C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C30H39ClO6
reactant | thiourea | 0.42 g | NC(=S)N | CH4N2S
reactant | sulfolane | 2.1 g | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | water | 4 ml | O | H2O
solvent | ethylene glycol monomethyl ether | 15 ml | COCCO | C3H8O2
product | 5-[4-(6-Hydroxy-2-isobutyl-5,7,8-trimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | OC=1C(=C2CCC(OC2=C(C1C)C)(CC(C)C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C27H33NO5S
